US04963544
A mixture of (2S,4R)-1-benzyloxycarbonyl-2-(imidazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine (8.60 g), conc. hydrochloric acid (1.76 ml), methanol (80 ml) and 10% palladium on carbon (50% wet) (4.50 g) was stirred for 6 hours under atmospheric pressure of hydrogen residue. The residue was dissolved in a mixture of tetrahydrofuran (22 ml) and water (22 ml). To the solution was added dropwise allyl chloroformate (2.5 ml) under ice-cooling, keeping pH 9-10 with 4N sodium hydroxide and then the mixture was stirred at the same condition for 30 minutes. To the reaction mixture were added sodium chloride (1.0 g) and ethyl acetate (10 ml). The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and evaporated in vacuo to give (2S,4R)-1-allyloxycarbonyl-2-(imidazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine (5.85 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-2-(imidazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine | 8.60 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C=NC=C1 | C17H21N3O5S
reactant | hydrochloric acid | 1.76 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | allyl chloroformate | 2.5 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium chloride | 1.0 g | [Cl-].[Na+]
catalyst | palladium on carbon | 4.50 g | [Pd] | Pd
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
solvent | water | 22 ml | O | H2O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 80 ml | CO | CH4O
product | (2S,4R)-1-allyloxycarbonyl-2-(imidazol-1-yl)methyl-4-methanesulfonyloxypyrrolidine | 5.85 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CN1C=NC=C1 | C13H19N3O5S
